US08669234B2
3-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-4-(2-methoxycarbonylamino-3-methyl-butyryl)-piperazine-1-carboxylic acid tert-butyl ester (2.0 g, 3.43 mmol) was dissolved in m-xylenes (18 mL) and heated at 135° C. Solid ammonium acetate (1.70 g, 22.0 mmol) was added and the reaction was stirred at 135° C. After 120 minutes, the reaction was cooled to room temperature and the volatiles were removed in vacuo. The crude material was purified via silica gel chromatography (eluent: EtOAc w MeOH 10%/hexanes) to yield the product 3-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-(2-methoxycarbonylamino-3-methyl-butyryl)-piperazine-1-carboxylic acid tert-butyl ester (674 mg, 1.19 mmol): LCMS-ESI+: calc'd for C25H34BrN5O5: 564.5 (M+). Found: 564.2/566.2 (M+H+).

reactant | 3-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-4-(2-methoxycarbonylamino-3-methyl-butyryl)-piperazine-1-carboxylic acid tert-butyl ester | 3.43 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C(C(C)C)NC(=O)OC)=O)C(NCC(=O)C1=CC=C(C=C1)Br)=O | C25H35BrN4O7
reactant | ammonium acetate | 22.0 mmol, 1.70 g | C(C)(=O)[O-].[NH4+]
product | 3-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-(2-methoxycarbonylamino-3-methyl-butyryl)-piperazine-1-carboxylic acid tert-butyl ester | 1.19 mmol, 674 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C(C(C)C)NC(=O)OC)=O)C=1NC=C(N1)C1=CC=C(C=C1)Br | C25H34BrN5O5
